US05709867
(c) Preparation of methyl 5-nitro-2-pyrrolecarboxylate
5.5 g (21.3 mmol) of 5-nitro-2-trichloroacetylpyrrole and 100 ml of methanol were introduced into a round-bottomed flask and 3.6 g of sodium methoxide were added in small quantities. The mixture was stirred at room temperature for 2 hours, the reaction medium was evaporated, the residue was triturated in water, the solid filtered and dried. 3 g (83%) of the expected methyl ester of melting point 178°-179° C. were recovered.

reactant | 5-nitro-2-trichloroacetylpyrrole | 21.3 mmol, 5.5 g | [N+](=O)([O-])C1=CC=C(N1)C(C(Cl)(Cl)Cl)=O | C6H3Cl3N2O3
reactant | sodium methoxide | 3.6 g | C[O-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
product | methyl 5-nitro-2-pyrrolecarboxylate | [N+](=O)([O-])C1=CC=C(N1)C(=O)OC | C6H6N2O4
